US08440689B2
B. tert-Butyl (3R,4R)-4-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(5-methylthiophen-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)tetrahydro-2H-pyran-3-ylcarbamate
A solution of tert-butyl (3R,4R)-4-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)tetrahydro-2H-pyran-3-ylcarbamate (51 mg, 0.093 mmol), 4,4,5,5-tetramethyl-2-(5-methylthiophen-2-yl)-1,3,2-dioxaborolane (104 mg, 0.463 mmol), and bis(triphenylphosphine)palladium chloride (65.0 mg, 0.093 mmol) in dioxane (1 mL) and saturated Na2CO3 aq (1 mL) was heated to 140° C. for 40 min. After filtering out the solids, the solvent was removed from the filtrate. The resulting residue was dissolved in MeOH and DCM (10 mL) and was purified via preparative HPLC eluting with water (0.05% TFA) and ACN (80%, 0.035% TFA). The collected fractions were combined and solvent was stripped to dryness via rotary evaporation to give the title compound (31 mg, 55%). [M+H] calc'd for C31H37FN4O6S, 613. found, 613.

reactant | tert-butyl (3R,4R)-4-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)tetrahydro-2H-pyran-3-ylcarbamate | 0.093 mmol, 51 mg | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@H]2[C@H](COCC2)NC(OC(C)(C)C)=O | C26H32ClFN4O6
reactant | 4,4,5,5-tetramethyl-2-(5-methylthiophen-2-yl)-1,3,2-dioxaborolane | 0.463 mmol, 104 mg | CC1(OB(OC1(C)C)C=1SC(=CC1)C)C | C11H17BO2S
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium chloride | 0.093 mmol, 65.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl (3R,4R)-4-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(5-methylthiophen-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)tetrahydro-2H-pyran-3-ylcarbamate | 31 mg, 55% | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@H]2[C@H](COCC2)NC(OC(C)(C)C)=O)C=2SC(=CC2)C)=O)C=CC(=C1)OC | C31H37FN4O6S
